US07790770B2
To a solution of (R)—N—((S)-1-(3-bromo-4-fluorophenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)-phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide, prepared as described in Procedure 3, 62, 5 and 6, (500 mg, 0.82 mmol) in DMF (5 mL) at rt was added methyl acrylate (0.74 mL, 8.22 mmol), Pd2(dba)3 (75 mg, 0.082 mmol), tri-t-butyl phosphine (89 μL, 0.33 mmol), and cesium carbonate (536 mg, 1.64 mmol). The reaction mixture was degassed with argon and was heated at 100° C. for 4 h. The reaction mixture was poured into water and the aqueous phase extracted with ethyl acetate. The combined organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by ISCO chromatography (4 g column, 0-40% EtOAc/hexane) to yield (E)-methyl 3-(5-((R)-1-((R)-1,1-dimethylethylsulfinamido)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-fluorophenyl)acrylate as a white foam (485 mg, 96% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.77 (d, J=16.42 Hz, 1H), 7.59 (dd, J=6.69, 2.15 Hz, 1H), 7.41 (m, 1H), 7.16 (m, 4H), 6.94 (dd, J=7.33, 1.77 Hz, 2H), 6.86 (d, J=8.84 Hz, 1H), 6.73 (t, J=4.93 Hz, 2H), 6.53 (d, J=16.17 Hz, 1H), 5.88 (m, 1H), 4.29 (s, 1H), 4.03 (d, J=12.38 Hz, 1H), 3.79 (s, 3H), 3.62 (d, J=12.38 Hz, 1H), 1.24 (m, 9H).

reactant | (R)—N—((S)-1-(3-bromo-4-fluorophenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)-phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | BrC=1C=C(C=CC1F)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)N[S@](=O)C(C)(C)C | C26H24BrF6NO2S
reactant | methyl acrylate | 8.22 mmol, 0.74 mL | C(C=C)(=O)OC | C4H6O2
reactant | tri-t-butyl phosphine | 0.33 mmol, 89 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 1.64 mmol, 536 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.082 mmol, 75 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-methyl 3-(5-((R)-1-((R)-1,1-dimethylethylsulfinamido)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-fluorophenyl)acrylate | 485 mg, 96% yield | CC(C)([S@@](=O)N[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C=1C=CC(=C(C1)/C=C/C(=O)OC)F)C | C30H29F6NO4S
